US07153854B2
To a solution of ethyl 5-[4-(2-chloro-4-pyridinyl)-7-ethyl-2-phenylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate (120 mg) in toluene (5 mL) and tetrahydrofuran (10 mL) was added sodium thiomethoxide (91.0 mg) and the mixture was heated under reflux for 4 hours. The solution was acidfied with 1N hydrochloric acid and extracted with chloroform. The organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (10:1–3:1) to give 5-{7-ethyl-4-[2-(methylthio)-4-pyridinyl]-2-phenylpyrrolo-[1,2-b]pyridazin-3-yl}pentanoic acid as an yellow powder (85.0 mg).

reactant | ethyl 5-[4-(2-chloro-4-pyridinyl)-7-ethyl-2-phenylpyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 120 mg | ClC1=NC=CC(=C1)C=1C=2N(N=C(C1CCCCC(=O)OCC)C1=CC=CC=C1)C(=CC2)CC | C27H28ClN3O2
reactant | sodium thiomethoxide | 91.0 mg | C[S-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-{7-ethyl-4-[2-(methylthio)-4-pyridinyl]-2-phenylpyrrolo-[1,2-b]pyridazin-3-yl}pentanoic acid | 85.0 mg | C(C)C1=CC=C2N1N=C(C(=C2C2=CC(=NC=C2)SC)CCCCC(=O)O)C2=CC=CC=C2 | C26H27N3O2S
